US04612317
4-Chlorobenzyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 13 by using (1S,3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline (216 mg), 2N NaOH (1.5 ml), CS2 (228 mg), 4-chlorobenzyl chloride (480 mg) and 80% ethanol (5 ml), there is prepared the title compound (292 mg, 70%) as white powder, [α]D20 +136.4° (c=1.1, methanol). NMR (CDCl3, δ): 1.63 (d, J=6.5 Hz, 3H, C1 --CH3), 4.57 (s, 2H, CSSCH2 -C6H4 -p-Cl), Mass m/e: 291 (M+ -CH2C6H4 -p-Cl), 258 (M+ -p-Cl-C6H4 -CH2SH).

reactant | (1S,3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline | 216 mg | OC[C@H]1N[C@H](C=2NC3=CC=CC=C3C2C1)C | C13H16N2O
reactant | NaOH | 2N, 1.5 ml | [OH-].[Na+]
reactant | CS2 | 228 mg | C(=S)=S | CS2
reactant | 4-chlorobenzyl chloride | 480 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | methanol | CO | CH4O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Chlorobenzyl (1S, 3S)-3-hydroxymethyl-1-methyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 292 mg, 70% | OC[C@H]1N([C@H](C=2NC3=CC=CC=C3C2C1)C)C(=S)SCC1=CC=C(C=C1)Cl | C21H21ClN2OS2
